US05225601
4-Aminomethylbenzyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl ether
A suspension of 3 g (9.4 mmol) of 4-cyanobenzyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl ether in 60 ml of ether was added dropwise under nitrogen to a suspension of 1 g (26 mmol) of lithium aluminum hydride in 50 ml of dry ether at 25° C. The mixture was then stirred under reflux for 3 h, cooled and hydrolyzed cautiously with water and sodium sulfate solution. The mixture was extracted three times with ether, and the combined ether extracts were washed with water, dried over Na2SO4 and concentrated. 3 g of the title compound of melting point 77°-79° C. remained.

reactant | 4-cyanobenzyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl ether | 9.4 mmol, 3 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)OCC1=CC=C(C=C1)C#N)C | C22H25NO
reactant | lithium aluminum hydride | 26 mmol, 1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | ether | 60 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 4-Aminomethylbenzyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl ether | CC1(C=2C=CC(=CC2C(CC1)(C)C)OCC1=CC=C(C=C1)CN)C | C22H29NO
